US04818819
Analogously, a mixture of 0.52 g of 2-amino-4-hydroxy-6-iodopyrido[2,3-d]pyrimidine and 0.03 g of 4-dimethylaminopyridine in 10 ml of acetic anhydride is heated under reflux under nitrogen for 3 hours. After cooling the reaction mixture to room temperature, anhydrous ether is added, and the reaction mixture filtered to give 0.52 g (87%) of 2-acetamido-4-hydroxy-6-iodopyrido[2,3-d]pyrimidine as a tan colored solid: m.p.>280° C.; NMR (DMSO-d6, 80 MHz) delta 2.18 (s, 3H), 8.67 (d, 1H, J=2.5 Hz), 9.02 (d, 1H, J=2.5 Hz); M/S 330 (M+), 315 and 288.

reactant | 2-amino-4-hydroxy-6-iodopyrido[2,3-d]pyrimidine | 0.52 g | NC=1N=C(C2=C(N1)N=CC(=C2)I)O | C7H5IN4O
reactant | ether | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-4-hydroxy-6-iodopyrido[2,3-d]pyrimidine | 0.52 g, 87% | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)I)O | C9H7IN4O2
